US04343811
2-[3-(4-Methoxy-phenyl)-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
This compound was prepared from 3-(4-methoxyphenyl)-2-methyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester analogously to Example 10.

reactant | 3-(4-methoxyphenyl)-2-methyl-1H-indole-5-ol | COC1=CC=C(C=C1)C1=C(NC2=CC=C(C=C12)O)C | C16H15NO2
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[3-(4-Methoxy-phenyl)-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(NC2=CC1)C)C1=CC=C(C=C1)OC)=O | C22H25NO4
